US08686048B2
Intermediate 78: 3′-butoxy-2,3,5,6-tetrafluorobiphenyl-4-amine
The title compound (250 mg) was prepared from 4-bromo-2,3,5,6-tetrafluoroaniline (300 mg, 1.23 mmol) and 3-butoxyphenylboronic acid (310 mg, 1.59 mmol) as a yellow liquid.

reactant | 4-bromo-2,3,5,6-tetrafluoroaniline | 1.23 mmol, 300 mg | BrC1=C(C(=C(N)C(=C1F)F)F)F | C6H2BrF4N
reactant | 3-butoxyphenylboronic acid | 1.59 mmol, 310 mg | C(CCC)OC=1C=C(C=CC1)B(O)O | C10H15BO3
product | 3′-butoxy-2,3,5,6-tetrafluorobiphenyl-4-amine | 250 mg | C(CCC)OC=1C=C(C=CC1)C1=C(C(=C(C(=C1F)F)N)F)F | C16H15F4NO
